US06376669B1
Platinum on carbon (1.0 g of 10%) and sodium sulfate (2 g) were added to a slurry of 1,1-dimethylethyl N-{2-[(3-nitroquinolin-4-yl)amino]ethyl}carbamate (100 g, 0.30 mol) in toluene (500 mL). The reaction vessel was placed on a Parr apparatus under 50 psi (3.5 Kg/cm2) hydrogen pressure overnight at ambient temperature. The reaction mixture was filtered through a layer of Celite® filter aid to remove the catalyst. The filtrate was concentrated under vacuum to provide 73 g of 1,1-dimethylethyl N-{2-[(3-aminoquinolin-4-yl)amino]ethyl}carbamate as a dark gold oil. Thin layer chromatography (silica gel; 10% methanol in dichloromethane) analysis indicated that the material was pure.

reactant | sodium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,1-dimethylethyl N-{2-[(3-nitroquinolin-4-yl)amino]ethyl}carbamate | 0.30 mol, 100 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCNC(OC(C)(C)C)=O | C16H20N4O4
reactant | hydrogen | [H][H] | H2
catalyst | Platinum on carbon | 1.0 g | [Pt] | Pt
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1-dimethylethyl N-{2-[(3-aminoquinolin-4-yl)amino]ethyl}carbamate | 73 g | NC=1C=NC2=CC=CC=C2C1NCCNC(OC(C)(C)C)=O | C16H22N4O2
